US07691877B2
4-Amino-1-benzyl-6-(1-methyl-1H-imidazol-2-yl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one
CDI (184 mg, 1.13 mmol) was added to a solution of the N*2*,N*4*-Dibenzyl-6-(1-methyl-1H-imidazol-2-yl)-pyridine-2,3,4-triamine (218 mg, 0.567 mmol) in DMF (3 ml) in a ReactiVial. The vial was flushed with nitrogen then sealed and heated in an aluminium block at 60° C. (block temperature). The dark brown solution was left to stir at this temperature for 16 hrs. The solution was concentrated under high-vacuum then dissolved in concentrated sulphuric acid (5 ml). The brown solution was left to stir at room temperature for 30 minutes then poured onto crushed ice (˜20 ml). A saturated aqueous solution of potassium carbonate was added drop-wise until pH˜8. The aqueous solution was decanted from the solid that had precipitated out during neutralisation, then extracted with EtOAc (2×50 ml). The combined organics were dried (MgSO4) and evaporated to a yellow solid (106 mg).

reactant | CDI | 1.13 mmol, 184 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N*2*,N*4*-Dibenzyl-6-(1-methyl-1H-imidazol-2-yl)-pyridine-2,3,4-triamine | 0.567 mmol, 218 mg | C(C1=CC=CC=C1)NC1=NC(=CC(=C1N)NCC1=CC=CC=C1)C=1N(C=CN1)C | C23H24N6
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-Amino-1-benzyl-6-(1-methyl-1H-imidazol-2-yl)-1,3-dihydro-imidazo[4,5-c]pyridine-2-one | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C=2N(C=CN2)C | C17H16N6O
